US08114886B2
5-[(2,5-Difluorophenyl)[(3-fluoro-4-methoxyphenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide
To a solution of 5-[(2,5-difluorophenyl)[(3-fluoro-4-methoxyphenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid (113 mg, 0.25 mmol) in methylene chloride (3 ml), 2-aminoethanol (0.017 ml, 0.28 mmol), 1-hydroxybenzotriazole (37 mg, 0.28 mmol), 4-methylmorpholine (0.030 ml, 0.28 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (53 mg, 0.28 mmol) were added at room temperature. After stirring for 19 hours at room temperature, the reaction mixture was washed with water and then with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the obtained residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with ethyl acetate was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of ethanol and diethyl ether, and was collected by filtration, to obtain the title compound (99 mg, 0.20 mmol, 80%) as a white solid.

reactant | 5-[(2,5-difluorophenyl)[(3-fluoro-4-methoxyphenyl)sulfonyl]methyl]-4-methylpyridine-2-carboxylic acid | 0.25 mmol, 113 mg | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)O)C)S(=O)(=O)C1=CC(=C(C=C1)OC)F | C21H16F3NO5S
reactant | 2-aminoethanol | 0.28 mmol, 0.017 ml | NCCO | C2H7NO
reactant | 1-hydroxybenzotriazole | 0.28 mmol, 37 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.28 mmol, 0.030 ml | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.28 mmol, 53 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 5-[(2,5-Difluorophenyl)[(3-fluoro-4-methoxyphenyl)sulfonyl]methyl]-N-(2-hydroxyethyl)-4-methylpyridine-2-carboxamide | 0.20 mmol, 99 mg, 80% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C(=O)NCCO)C)S(=O)(=O)C1=CC(=C(C=C1)OC)F | C23H21F3N2O5S
